US09233985B2
Step 2: (1S,2S)-1-acetamido-2-allyl-N-tert-butyl-4-(nitromethyl)cyclopentanecarboxamide, isomers A and B
A stirred solution of 2-allyl-4-(nitromethyl)cyclopentanone, mixture of isomers (0.366 g, 2.0 mmol) in 2,2,2-trifluoroethanol (1.5 mL) under nitrogen was treated with ammonium acetate (0.617 g, 8 mmol) and t-butylisonitrile (0.68 mL, 6.0 mmol) and stirred at room temperature for 2 days. The mixture was diluted with dichloromethane (20 mL) and added directly to a silica gel column (˜250 cc) and eluted with 7:3 dichloromethane/ethyl acetate to afford first the two isomers with acetamino and allyl substituents in syn relative geometry, then isomer A (122 mg, 19%) as a white solid, then isomer B (195 mg, 30%) as a white solid. For isomer A: NMR (CDCl3): δ 6.12 (br s, 2 H), 5.65-5.80 (m, 1 H), 5.00-5.15 (m, 2 H), 4.53 (d, J=7 Hz, 1 H), 4.35-4.50 (m, 1 H), 2.80-3.00 (m, 1 H), 2.45-2.60 (m, 1 H), 2.25-2.35 (m, 2 H), 1.90-2.20 (m, 2 H), 2.00 (s, 3 H), 1.20-1.60 (m, 2 H), 1.34 (s, 9 H). MS (M+1): 326.0. For isomer B: NMR (CDCl3): δ 6.05-6.15 (m, 2 H), 5.65-5.80 (m, 1 H), 5.00-5.15 (m, 2 H), 4.43 (d, J=6.5 Hz, 2 H), 2.90-3.10 (m, 2 H), 2.40-2.50 (m, 1 H), 2.20-2.30 (m, 1 H), 2.00 (s, 3 H), 1.70-2.00 (m, 4 H), 1.35 (s, 9 H). MS (M+1): 326.0.

reactant | 2-allyl-4-(nitromethyl)cyclopentanone | C(C=C)C1C(CC(C1)C[N+](=O)[O-])=O | C9H13NO3
reactant | ammonium acetate | 8 mmol, 0.617 g | C(C)(=O)[O-].[NH4+]
reactant | t-butylisonitrile | 6.0 mmol, 0.68 mL | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | 2,2,2-trifluoroethanol | 1.5 mL | FC(CO)(F)F | C2H3F3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (1S,2S)-1-acetamido-2-allyl-N-tert-butyl-4-(nitromethyl)cyclopentanecarboxamide | C(C)(=O)N[C@@]1([C@H](CC(C1)C[N+](=O)[O-])CC=C)C(=O)NC(C)(C)C | C16H27N3O4
